US09403807B2
Step I: methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate
LiHMDS (20 mL, 0.020 mol) was added dropwise to a stirred solution of methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate (4.32 g, 0.010 mol) in THF (80 mL) and HMPA (20 mL) at −78° C. The resulting mixture was stirred for another 1 h at −78° C. Iodoethane (2.3 g, 0.015 mol) was added to the above solution. The reaction mixture was warmed to −20° C. and stirred for 20 min. The mixture was quenched with sat. ammonium chloride and extracted with EA, washed with brine and dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel flash chromatography (PE: EA=8:1) to afford the title compound. LC/MS m/z=405.1 [M-tBu+H]+.

reactant | LiHMDS | 0.020 mol, 20 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)acetate | 0.010 mol, 4.32 g | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)C1=CC=C(C=C1)Cl | C22H22ClFN2O4
reactant | Iodoethane | 0.015 mol, 2.3 g | ICC | C2H5I
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | HMPA | 20 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | methyl 2-(4-(tert-butoxycarbonylamino)-6-fluoro-1H-indol-1-yl)-2-(4-chlorophenyl)butanoate | C(C)(C)(C)OC(=O)NC1=C2C=CN(C2=CC(=C1)F)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C24H26ClFN2O4
